US04035512
500 mg. of trans-2-amino-6-benzyloxy-1hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene is dissolved in a mixture of 3 ml. of acetone and 10 ml. of anhydrous benzene and the solution is heated on reflux for 5 hours. The reaction mixture is concentrated under reduced pressure and 10 ml. of ethanol is added to the residue. After the addition of 100 mg. of sodium borohydride with stirring, the mixture is stirred at room temperature for 5 hours. The reaction mixture is concentrated under reduced pressure, and water and ethyl acetate are added to the residue. The mixture is extracted with ethyl acetate. The organic solvent layers are pooled, washed with water, dried and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate-n-hexane to obtain trans-6-benzyloxy-2isopropylamino-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene as colorless needles melting at 91°-92° C.

reactant | trans-2-amino-6-benzyloxy-1hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | N[C@H]1[C@@H](C2=CC=C(C(=C2CC1)C(=O)OC)OCC1=CC=CC=C1)O | C19H21NO4
reactant | acetone | CC(=O)C | C3H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-6-benzyloxy-2isopropylamino-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC(C)C)C(=O)OC | C22H27NO4
